US03954749
Preparation of Ethyl 3-(N,N-Dimethylamino)propionate
To a chilled (-15°C.) reaction vessel there was added: anhydrous dimethylamine (100 grams); ethyl acrylate (250 grams); phenothiazine (0.5 gram); and p-methoxyphenol (0.5 gram). The mixture was maintained at -13°C. for 2 hours with stirring after which the temperature was allowed to rise to about 25°C. Unreacted dimethylamine and ethyl acrylate were removed by distillation. The product was recovered by distillation at 58°C. and 10 mm. mercury pressure in a yield of 97 percent. The product, designated herein as Amine Catalyst VIII, has the formula, (CH3)2NCH2CH2C(O)OC2H5, as verified analytically by infrared spectroscopy.

reactant | dimethylamine | 100 grams | CNC | C2H7N
reactant | ethyl acrylate | 250 grams | C(C=C)(=O)OCC | C5H8O2
reactant | phenothiazine | 0.5 gram | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | p-methoxyphenol | 0.5 gram | COC1=CC=C(C=C1)O | C7H8O2
product | Ethyl 3-(N,N-Dimethylamino)propionate | yield of 97 percent | CN(C)CCC(=O)OCC | C7H15NO2
